* PSpice Model Editor - Version 17.4.0
*$
* updated using Model Editor release 17.4.0 on 09/01/21 at 21:46
*DEVICE=TL082_3,OPAMP,NPN,INT
.subckt TL082_3 PIN NIN OUT PVSS NVSS 
+ params:
+ VOS=0
+ IB=0
+ IBOS=0
+ A0=2000000
+ GBW=800e+6
+ SRP=800e+6
+ SRM=800e+6
+ CMRR=10000
+ P0=0
+ PD=50e-3
+ ISCP=25e-3
+ ISCM=-25e-3
+ ROUT=1
+ ROAC=20
+ VPDIFF=1
+ VMDIFF=1
+ VCC=15
+ VSS=-15
+ CINDM=0
+ RINDM=10e+9
+ enw=10e-9
XinstTL082_3 PIN NIN OUT PVSS NVSS  model639a_3
+ params: 
+ vos={VOS}
+ ib={IB}
+ ibos={IBOS}
+ a0={A0}
+ gbw={GBW}
+ srp={SRP}
+ srm={SRM}
+ cmrr={CMRR}
+ p0={P0}
+ pd={PD}
+ iscp={ISCP}
+ iscm={ISCM}
+ rout={ROUT}
+ roac={ROAC}
+ vpdiff={VPDIFF}
+ vmdiff={VMDIFF}
+ vcc={VCC}
+ vss={VSS}
+ cindm={CINDM}
+ rindm={RINDM}
+ enw={ENW}
.ends TL082_3
*$
* updated using Model Editor release 17.4.0 on 09/01/21 at 21:46
*DEVICE=TL082_2,OPAMP,NPN,INT
.subckt TL082_2 PIN NIN OUT PVSS NVSS 
+ params:
+ VOS=0
+ IB=0
+ IBOS=0
+ A0=2000000
+ GBW=800e+6
+ SRP=800e+6
+ SRM=800e+6
+ CMRR=10000
+ P0=0
+ PD=50e-3
+ ISCP=25e-3
+ ISCM=-25e-3
+ ROUT=1
+ ROAC=20
+ VPDIFF=1
+ VMDIFF=1
+ VCC=15
+ VSS=-15
XinstTL082_2 PIN NIN OUT PVSS NVSS  model639a_2
+ params: 
+ vos={VOS}
+ ib={IB}
+ ibos={IBOS}
+ a0={A0}
+ gbw={GBW}
+ srp={SRP}
+ srm={SRM}
+ cmrr={CMRR}
+ p0={P0}
+ pd={PD}
+ iscp={ISCP}
+ iscm={ISCM}
+ rout={ROUT}
+ roac={ROAC}
+ vpdiff={VPDIFF}
+ vmdiff={VMDIFF}
+ vcc={VCC}
+ vss={VSS}
.ends TL082_2
*$
* updated using Model Editor release 17.4.0 on 09/01/21 at 21:46
*DEVICE=TL082_1,OPAMP,NPN,INT
.subckt TL082_1 PIN NIN OUT PVSS NVSS 
+ params:
+ VOS=0
+ IB=0
+ IBOS=0
+ A0=2000000
+ GBW=800e+6
+ SRP=800e+6
+ SRM=800e+6
XinstTL082_1 PIN NIN OUT PVSS NVSS  model639a_1
+ params: 
+ vos={VOS}
+ ib={IB}
+ ibos={IBOS}
+ a0={A0}
+ gbw={GBW}
+ srp={SRP}
+ srm={SRM}
.ends TL082_1
*$
