* source ADC
E_U1         N00165 0 VALUE {LIMIT(V(0,N01900)*1E6,-5V,+5V)}
C_C1         N01900 N00165  12.8n IC=0 TC=0,0 
R_R1         N01900 VIN  20k TC=0,0 
E_U2         N02733 0 VALUE {LIMIT(V(VREF,N00165)*1E6,0V,+5V)}
V_Vref         VREF 0 0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N18252 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +500n 0
+  +500n 1
+ ENDREPEAT
U_DSTM4         STIM(1,0) $G_DPWR $G_DGND N16069 IO_STM STIMULUS=RST
V_V2         VIN 0 5
X_U9         N01900 N00165 Sw_tClose PARAMS: tClose=256u ttran=1u Rclosed=7
+  Ropen=1Meg
X_U10A         N18252 N16069 N02733 Q0 Q1 Q2 Q3 $G_CD4000_VDD $G_CD4000_VSS
+  CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         0 N16069 Q3 Q4 Q5 Q6 Q7 $G_CD4000_VDD $G_CD4000_VSS CD4520B
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
