* source ADC
X_U1         D2 Q2  $G_DPWR $G_DGND INV
V_V1         VCC 0 5
X_STATEBUFF          N23017 N24054 0 0 Q0 Q1 Q2 M_UN0001 VCC VCC D0 D1 D2
+  M_UN0002 CD4076B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U3         D0 Q0  $G_DPWR $G_DGND INV
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N23017 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_U2         D1 Q1  $G_DPWR $G_DGND INV
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N24054 IO_STM STIMULUS=RST
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
