* source ADC
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N51562 IO_STM STIMULUS=MEAS
X_CNT1B         0 N51596 Q3 Q4 Q5 Q6 Q7 $G_CD4000_VDD $G_CD4000_VSS CD4520B
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N51596 IO_STM STIMULUS=RST
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N51530 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
X_CNTA         N51530 N51596 N51562 Q0 Q1 Q2 Q3 $G_CD4000_VDD $G_CD4000_VSS
+  CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
