* source ADC
X_IC10          N84341 0 0 0 N84411 N84393 N84401 N84389 N84397 N84415 N84634
+  N84642 N84630 N84638 CD4028B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
V_V1         N84341 0 5
** Floating/unmodeled pin fixups **
R__UC0001   N84634  0   {1/GMIN}
R__UC0002   N84642  0   {1/GMIN}
R__UC0003   N84630  0   {1/GMIN}
R__UC0004   N84638  0   {1/GMIN}
