* source ADC
X_U1A         N00525 N02882 $G_CD4000_VDD $G_CD4000_VSS CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         0 N02861  1k TC=0,0 
E_U2         N00525 0 VALUE {LIMIT(V(0,N00690)*1E6,-15V,+15V)}
V_V2         N00686 0 -2.9
R_R2         N00525 N00690  1k TC=0,0 
R_R3         N00690 N00110  1k TC=0,0 
R_R4         N00690 N00686  1k TC=0,0 
V_V3         N00110 0  
+PULSE 0 -1 0 500u 500u 500u 2k
X_U3         N02882 N02861  $G_DPWR $G_DGND INV
