* source ADC
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N06221 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
U_J         STIM(1,0) $G_DPWR $G_DGND N06368 IO_STM STIMULUS=B
X_U6         N06368 N06221 N06368 Q0 M_UN0001 $G_DPWR $G_DGND JKFF
X_U7         N06450 N06221 N06450 Q1 M_UN0002 $G_DPWR $G_DGND JKFF
X_U8         N06684 N06221 N06684 Q2 M_UN0003 $G_DPWR $G_DGND JKFF
X_U9         N06707 N06221 N06707 Q3 M_UN0004 $G_DPWR $G_DGND JKFF
X_U10         N07500 N06221 N07500 Q4 M_UN0005 $G_DPWR $G_DGND JKFF
X_U11         N06730 N06221 N06730 Q5 M_UN0006 $G_DPWR $G_DGND JKFF
X_U12         N06753 N06221 N06753 Q6 M_UN0007 $G_DPWR $G_DGND JKFF
X_U13         N06782 N06221 N06782 Q7 N08553 $G_DPWR $G_DGND JKFF
X_U14         Q0 N08553 N06450  $G_DPWR $G_DGND AND2
X_U15         Q0 Q1 N06684  $G_DPWR $G_DGND AND2
X_U16         Q0 Q2 N06707  $G_DPWR $G_DGND AND2
X_U17         Q0 Q4 N06730  $G_DPWR $G_DGND AND2
X_U18         Q0 Q5 N06753  $G_DPWR $G_DGND AND2
X_U19         N06753 Q6 N08307  $G_DPWR $G_DGND AND2
X_U20         Q0 Q3 N07500  $G_DPWR $G_DGND AND2
X_U21         Q7 Q0 N08322  $G_DPWR $G_DGND AND2
X_U22         N08322 N08307 N06782 $G_DPWR $G_DGND OR2
