* source ADC
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N19677 IO_STM STIMULUS=switch
V_V1         N19952 0 5V
E_U1         N26502 0 VALUE {LIMIT(V(0,N23210)*1E6,-5V,+5V)}
C_C1         N23210 N26502  12.8n IC=0 TC=0,0 
R_R1         N23210 N19952  20k TC=0,0 
X_M1         N23210 N19677 N26502 2N7269
